US08217041B2
On a sufficient amount of anhydrous THF cooled to 0° C. 2 equivalents of a solution of AlH3-DMEA 0.5M in toluene were added. Then a solution, previously cooled to 0° C., of 1 equivalent of the previous amide in anhydrous THF was added. It was kept with stirring in an argon atmosphere at 0° C. for 30 minutes. The course of the reaction was followed by silica gel thin-layer chromatography (CH2Cl2/NH3 gas:MeOH 95:5). Water and H2SO4 10% were added to the reaction mixture and the temperature was allowed to rise slowly to 20° C. It was alkalinised with NH3 20% and extracted with AcOEt. The organic extracts, after being dried with anhydrous Na2SO4 and filtered, were evaporated to dryness. The residue obtained was purified by silica gel column chromatography (CH2Cl2/NH3 gas:MeOH, increasing polarity mixtures), providing N-(naphthalene-1-yl)-3-(2-dimethylaminoethyl)-2-methyl-1H-indene-5-sulfonamide.

reactant | AlH3 DMEA | 0.5M | [AlH3].CN(C)CCO
reactant | CH2Cl2 NH3 | C(Cl)Cl.N
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | NH3 | N | H3N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | C1CCOC1 | C4H8O
solvent | Water | O | H2O
solvent | MeOH | CO | CH4O
product | N-(naphthalene-1-yl)-3-(2-dimethylaminoethyl)-2-methyl-1H-indene-5-sulfonamide | C1(=CC=CC2=CC=CC=C12)NS(=O)(=O)C=1C=C2C(=C(CC2=CC1)C)CCN(C)C | C24H26N2O2S
